US09227978B2
2-Chloro-4-methoxy-1-vinylbenzene
To a suspension of phosphonium salt (2.05 g, 5 mmol) in THF (50 mL), was added t-BuOK (0.84 g, 7.5 mmol). The mixture turned to yellow and was kept stirring at RT for 1 h. 2-Chloro-4-methoxybenzaldehyde (0.85 g, 5 mmol) was added to the mixture. The mixture was stirred for 24 h, diluted with sat. NaHCO3 and then extracted with hexane. Organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by Isolera One (100% hexanes to afford the desired product (0.45 g, 53% yield). 1H NMR (CDCl3, δ): 7.49 (d, J=6.8 Hz, 1H), 7.03 (dd, J=8.8, 14.0 Hz, 1H), 6.90 (d, J=2.0, 1H), 6.79 (dd, J=2.0, 6.8 Hz, 1H), 5.62 (d, J=14.0 Hz, 1H), 5.26 (d, J=8.8 Hz, 1H), 3.80 (s, 3H).

reactant | phosphonium | 5 mmol, 2.05 g | [PH4+]
reactant | t-BuOK | 7.5 mmol, 0.84 g | CC(C)(C)[O-].[K+]
reactant | 2-Chloro-4-methoxybenzaldehyde | 5 mmol, 0.85 g | ClC1=C(C=O)C=CC(=C1)OC | C8H7ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-Chloro-4-methoxy-1-vinylbenzene | 0.45 g, 53% yield | ClC1=C(C=CC(=C1)OC)C=C | C9H9ClO
